Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Macrobid
 
Attending: ___.
 
Chief Complaint:
Melena/Hematochezia
 
Major Surgical or Invasive Procedure:
EGD and Colonscopy (___)

 
History of Present Illness:
MS. ___ is a ___ female with a past medical history
significant for depression, hyperlipidemia, depression/anxiety
and IBS who presented to the ED with complaints of 3 days of
melena and dark red stools. 

The patient reports that 3 days prior to presentation she ate a
multiple vegetables and garlic which typically triggers her IBS.
Since then she has felt very bloated, and not eaten
significantly. Her symptoms gradually improved, however she then
developed dark red stools later that night, and had multiple
loose bowel movements at least 4 times daily. Her last
colonoscopy was at least ___ years ago. She had not had any
fevers/ chills/nausea/vomiting/weight gain or loss/abdominal
pain/ bowel/ bladder incontinence during this time. She
ultimately presented to the ED given her ongoing black bowel
movements. Other than the color of her bowel movements, she has
not had any other symptoms including fatigue, dizziness,
palpitations, or shortness of breath. 

In the ED the patient's vitals were hemodynamically stable. Her
exam was notable for:  Gen: NAD, A&Ox3 CV: ___ systolic murmur 
at
RUSB Lung: CTAB Abd: NTND, no hsm Ext: Warm, well perfused, no
edema Rectal: dark liquid stool in the perineum, guaiac positive
Neuro: No gross/focal deficits. 

The patient subsequently had a small bowel movement in the
emergency room which was very dark and had small amounts of dark
red blood. At that time her rectal exam was notable for guaiac
positive and melena staining the perineum. She continued to be
hemodynamically stable while in the ED. Here H&H was noted to
have downtrended to 7.5 from her previous baseline. GI was
consulted and recommended admitting the patient to medicine for
___ and EGD on ___. She received 1 unit of PRBCs and was
transferred to the medical floor. 

On arrival to the floor, the patient was resting comfortably in
no acute distress and had no specific complaints. She denied
palpitations, syncope, fatigue, or lightheadedness. She did
report some anxiety and insomnia and was asking for something 
for
sleep. She was intermittently declining here ___ prep.   

 
Past Medical History:
PMH:  She has had multiple falls over the last several years, 
one resulted in a right hip fracture in which she required a
hemiarthroplasty to the right hip in ___.  anxiety, depression,
osteopenia, elevated cholesterol.

PSH: Right hemiarthroplasty ___

 
Social History:
___
Family History:
Reviewed.  none pertinent to this hospitalization.
 
Physical Exam:
Exam on Admission:
VITALS: ___ 2325 Temp: 97.9 PO BP: 130/82 HR: 91 RR: 18 O2
sat: 97% O2 delivery: Ra 

GENERAL: Alert and interactive. In no acute distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
NECK: No cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
BACK: No CVA tenderness.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Warm. Cap refill <2s. No rashes.
NEUROLOGIC: AOx3. CN2-12 intact. Moving all 4 limbs
spontaneously. ___ strength throughout. Normal sensation.

Exam on Discharge:
VITALS: ___ ___ Temp: 98.2 PO BP: 126/74 HR: 92 RR: 20 O2
sat: 94% O2 delivery: Ra 
GENERAL: Alert and interactive. In no acute distress.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.

 
Pertinent Results:
LABS
================================================
Admission Labs
___ 06:50PM   GLUCOSE-105* UREA N-27* CREAT-0.9 SODIUM-144 
POTASSIUM-4.0 CHLORIDE-107 TOTAL CO2-22 ANION GAP-15
___ 06:50PM   WBC-6.1 RBC-2.32* HGB-7.5* HCT-22.8* MCV-98 
MCH-32.3* MCHC-32.9 RDW-14.6 RDWSD-51.0*
___ 06:50PM   NEUTS-64.4 ___ MONOS-9.0 EOS-1.1 
BASOS-0.2 IM ___ AbsNeut-3.92 AbsLymp-1.52 AbsMono-0.55 
AbsEos-0.07 AbsBaso-0.01

Interval Labs
___ 04:11PM BLOOD WBC-6.8 RBC-2.89* Hgb-9.1* Hct-28.5* 
MCV-99* MCH-31.5 MCHC-31.9* RDW-16.0* RDWSD-57.1* Plt ___
___ 04:11PM BLOOD Glucose-120* UreaN-14 Creat-0.8 Na-146 
K-3.8 Cl-115* HCO3-17* AnGap-14

Discharge Labs
___ 06:41AM BLOOD WBC-5.3 RBC-2.76* Hgb-8.5* Hct-27.2* 
MCV-99* MCH-30.8 MCHC-31.3* RDW-16.1* RDWSD-57.2* Plt ___
___ 06:41AM BLOOD Glucose-90 UreaN-12 Creat-0.8 Na-146 
K-3.7 Cl-115* HCO3-17* AnGap-14

MICROBIOLOGY
====================================================
None

IMAGING
====================================================
___ Colonscopy: multiple diverticula in the colon, normal 
mucosa throughout the colon

___: EGD: Normal mucosa in the esophagus, multiple erosions 
in the antrum and the incisura of the stomach, normal mucosa in 
the duodenum, small polyp in the first part of duodenum
 
Brief Hospital Course:
SUMMARY STATEMENT
=========================================================
Ms. ___ is a ___ female past medical history of  
hyperlipidemia, depression, IBS who presented with melena and 
hematochezia.The patient presented to the ED after having 
multiple bouts of dark red stools as well as some black tarry 
stools while in ED. While in the ED, her hemoglobin was 7.5, 
which is lower than her baseline.  She received 1U PRBCs in the 
ED with good response in her hemoglobin (Hb 8.8). She remained 
hemodynamically stable throughout her hospital course. She 
underwent an EGD and colonscopy on ___ which showed multiple 
diverticula in the colon with otherwise healthy, normal mucosa. 
EGD showed erosions in the antrum and incisora of the stomach. 
Labs were sent for H. Pylori serologies and H. Pylori stool 
antigen. She was advised to continue on the omeprazole 40mg BID 
for at least 8 weeks. 

ACUTE ISSUES
===========================================================
#GI Bleed and Acute Blood loss Anemia 
# Gastric ulcers
She initially presented with several weeks of melena and 
hematochezia. She was also experiencing lightheadedness and 
fatigue during this time. Stool was guiac positive in the ED. 
Her hemoglobin was low at 7.5 and she was transfused 1 unit 
packed red blood cells with appropriate response (Hb to 8.8). 
She underwent an EGD and colonscopy on ___ which showed 
multiple diverticula in the colon with otherwise healthy, normal 
mucosa. EGD showed erosions in the antrum and incisora of the 
stomach. Labs were sent for H. Pylori serologies and H. Pylori 
stool antigen. She was advised to continue on the omeprazole 
40mg BID for at least 8 weeks. After remaining NPO for her 
procedures, she was successfully advanced to clear liquid diet 
and then to full diet. 

CHRONIC ISSUES
==========================================================

# Depression/Anxiety 
We continued her home Venlafaxine and home Ativan 1mg PO QHS PRN 
insomnia.

# Hyperlipidemia 
We continued her home pravastatin. 

TRANSITIONAL ISSUES
==========================================================

NEW OR CHANGED MEDICATIONS

-Start omeprazole 40mg BID for the next ___ weeks

[] ___ require follow up of her H.Pylori testing with 
consideration for empiric antibiotic therapy given her 
presentation 
[] Repeat EGD scheduled for ___ per GI.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q6H 
2. Polyethylene Glycol 17 g PO DAILY 
3. Simvastatin 40 mg PO QPM 
4. Multivitamins 1 TAB PO DAILY 
5. Venlafaxine XR 75 mg PO DAILY 
6. LORazepam 1 mg PO QHS:PRN sleep 

 
Discharge Medications:
1.  omeprazole 40 mg oral BID gastritis Duration: 8 Weeks 
Please take one pill twice a day for at least 8 weeks.  
RX *omeprazole 40 mg 1 capsule(s) by mouth twice a day Disp 
#*112 Capsule Refills:*0 
2.  Acetaminophen 650 mg PO Q6H  
3.  LORazepam 1 mg PO QHS:PRN sleep  
4.  Multivitamins 1 TAB PO DAILY  
5.  Polyethylene Glycol 17 g PO DAILY  
6.  Simvastatin 40 mg PO QPM  
7.  Venlafaxine XR 75 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Gastritis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at ___.

Why did you come to the hospital?

- You initially came to the hospital because of having dark 
stools and blood in your stool. 

What happened during your hospitalization?

 During your hospitalization, you initially received 1 unit of 
red blood cells because your blood levels were low. By putting a 
camera down your digestive tract, we were able to see that you 
have inflammation of your stomach which could have led to the 
bleeding you saw in your stool. 

What should you do when you leave the hospital?

You should follow up with your PCP and with GI. You should 
continue to take Prilosec twice a day for two weeks to help 
protect the lining of your stomach. You should try to avoid 
NSAIDs such as ibuprofen because these can irritate the lining 
of your stomach as well. 

Sincerely,
Your ___ Care Team 
 
Followup Instructions:
___